US05817599
Synthesis of 3-(docosylthio)propionohydrazide
22.1 Grams of ethyl 3-(docosylthio)propionate, 150 ml of n-propanol and 12.5 g of hydrazine monohydrate were charged in a flask equipped with a stirrer, a condenser and a calcium chloride drying tube and refluxed with heating for 20 hours. The reaction mixture was cooled to room temperature and the precipitated crystal was filtered off under reduced pressure and washed with distilled water. The crystal was recrystallized from 2-propanol to obtain 17.2 g of the desired product. m.p. 106° C.

reactant | ethyl 3-(docosylthio)propionate | C(CCCCCCCCCCCCCCCCCCCCC)SCCC(=O)OCC | C27H54O2S
reactant | hydrazine monohydrate | 12.5 g | O.NN
solvent | n-propanol | 150 ml | C(CC)O | C3H8O
product | 3-(docosylthio)propionohydrazide | 17.2 g | C(CCCCCCCCCCCCCCCCCCCCC)SCCC(=O)NN | C25H52N2OS
